US07452880B2
To a room temperature solution of 6-(2,4-difluorophenoxy)-1H-pyrazolo[4,3-c]pyridine (0.10 g) in DMF was added 0.11 g of iodine and 0.049 g of potassium hydroxide. After 5 hours, additional 10% of iodine was added and a reaction mixture was stirred for an additional one hour. The mixture was quenched with 1 M sodium bisulfite (50 mL) solution and extracted with ethyl acetate (3×30 mL). The organic layers were combined, dried over MgSO4, and concentrated to give 0.11 g of 6-(2,4-difluorophenoxy)-3-iodo-1H-pyrazolo[4,3-c]pyridine (71% yield). Mass Spec. M+H=374.

reactant | 6-(2,4-difluorophenoxy)-1H-pyrazolo[4,3-c]pyridine | 0.10 g | FC1=C(OC2=CC3=C(C=N2)C=NN3)C=CC(=C1)F | C12H7F2N3O
reactant | iodine | 0.11 g | II | I2
reactant | potassium hydroxide | 0.049 g | [OH-].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-(2,4-difluorophenoxy)-3-iodo-1H-pyrazolo[4,3-c]pyridine | 0.11 g, 71% yield | FC1=C(OC2=CC3=C(C=N2)C(=NN3)I)C=CC(=C1)F | C12H6F2IN3O
